* Auto-generated SPICE deck for op-amp evaluation
.param sw_stat_global=0 mc_skew=1 res_mc_skew=1 cap_mc_skew=1
.param fnoicor=0
.lib /usr/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.spice typical

.subckt CIRCUIT_Opamp VIN1 VIN2 VOUT1 VOUT2 VDD VSS VB1 VB2 VB3
M_NM2 VOUT1 VB1 NET1 VSS nfet_03v3.0 w=10u l=1u
M_PM10 VOUT1 VB2 NET2 VDD pfet_03v3.0 w=15u l=1u
M_PM7 VOUT2 VB3 VDD VDD pfet_03v3.0 w=15u l=1u
M_NM17 VOUT2 VB1 VSS VSS nfet_03v3.0 w=10u l=1u
M_NM7 NET1 VIN1 VSS VSS nfet_03v3.0 w=10u l=1u
M_PM33 NET2 VB3 VDD VDD pfet_03v3.0 w=15u l=1u
M_NM35 NET2 VIN2 NET1 VSS nfet_03v3.0 w=10u l=1u
M_NM24 0 0 VSS VSS nfet_03v3.0 w=10u l=1u
M_NM26 NET1 VB3 VSS VSS nfet_03v3.0 w=10u l=1u
.ends CIRCUIT_Opamp

* Auto-generated op-amp testbench
.param VDDVAL=1.8 VCM=0.9 VIN_LO=0.8 VIN_HI=1
.param VINP_AC=0.5 VINN_AC=-0.5 VDD_AC=0
.param STEP_AMP=0.02 TSTOP=5e-06 TR_STP=1e-09
.param STEP_DELAY=1e-06 STEP_RISE=1e-09 STEP_FALL=1e-09 STEP_WIDTH=1e-06 STEP_PERIOD=2e-06
VVDD VDD 0 {VDDVAL} AC {VDD_AC}
VVSS VSS 0 0
VINP VINP 0 DC {VCM} AC {VINP_AC} PULSE(0.89 0.91 {STEP_DELAY} {STEP_RISE} {STEP_FALL} {STEP_WIDTH} {STEP_PERIOD})
VINN VINN 0 DC {VCM} AC {VINN_AC}
CL VOUT 0 1e-12
RL VOUT 0 100000
VVB1 VB1 0 0.9
VVB2 VB2 0 0.9
VVB3 VB3 0 0.9

* Port order: VIN1 VIN2 VOUT1 VOUT2 VDD VSS VB1 VB2 VB3
* Connected nodes: VINP VINN VOUT VOUT2 VDD VSS VB1 VB2 VB3
XUUT VINP VINN VOUT VOUT2 VDD VSS VB1 VB2 VB3 CIRCUIT_Opamp

.control
set noaskquit
set filetype=ascii
option method=gear reltol=1e-4 abstol=1e-12 vntol=1e-6 maxord=2 gmin=1e-12 srcsteps=10 itl1=200 itl4=200

* Operating point
op
print v(vout) v(vinp) v(vinn) i(vvdd)

* DC sweep for low-frequency gain and input offset voltage
dc VINP 0.8 1 0.001
meas dc VOUT_LO find v(vout) at=0.8
meas dc VOUT_HI find v(vout) at=1
let AV = (VOUT_HI-VOUT_LO)/(1-0.8)
print VOUT_LO VOUT_HI AV
meas dc VINP_at_VCM when v(vout)=0.9
let VOS = VINP_at_VCM - 0.9
let OFFSET = VOS
print VOS OFFSET

* AC open-loop gain, GBW, and phase margin
* ac disabled
* meas ac AV0 disabled
* meas ac UGB disabled
* meas ac PH_UGB disabled
* let PM disabled
* print ac summary disabled

* Common-mode rejection ratio
* alterparam CMRR disabled
* reset cmrr disabled
* ac cmrr disabled
* meas ac ACMR disabled
* let CMRR disabled
* print CMRR disabled

* Power-supply rejection ratio
* alterparam PSRR disabled
* reset psrr disabled
* ac psrr disabled
* meas ac APSRR disabled
* let PSRR disabled
* print PSRR disabled

* Output noise
* alterparam noise disabled
* reset noise disabled
* noise disabled
* meas noise NOISE disabled
* print NOISE disabled

* Transient measurements: settling time, slew rate, average power dissipation
* tran disabled
* meas tran V_PRE disabled
* meas tran V_POST disabled
* let VCM_MEAS disabled
* let STEP_DELAY_MEAS disabled
* let V_STEP disabled
* let V_TARGET disabled
* let V_LOW disabled
* let V_HIGH disabled
* meas tran T_RISE disabled
* meas tran T_SETTLE disabled
* meas tran SR_POS disabled
* meas tran SR_NEG disabled
* meas tran I_VDD disabled
* meas tran I_INRUSH disabled
* let P_DISS disabled
* let OFFSET_T disabled
* wrdata disabled
* print tran summary disabled

quit
.endc

.end